US06794391B2
1,3-Di-(tert-butoxycarbonyl)thiourea (1)
Sodium hydride (60% in oil, 4.7 g, 0.117 mol) was washed with petroleum ether to remove the oil, then added in portions to a stirred solution of thiourea (2.0 g, 0.026 mol) in tetrahydrofuran (400 ml) at 0° C., under nitrogen. The mixture was stirred for 5 minutes at 0° C. then warmed to room temperature for 10 minutes. After re-cooling to 0° C., di-tert-butyl dicarbonate (16.1 g, 0.0585 mol) in tetrahydrofuran (100 ml) was added dropwise and the mixture was stirred for 30 minutes at 0° C. After a further 2 h at room temperature the reaction was quenched by dropwise addition of saturated sodium bicarbonate (40 ml) and poured into water (11). The solution was extracted with ethyl acetate (3×200 ml) and the combined extract washed with brine, dried (MgSO4) and evaporated in vacuo. The residual solid was triturated with petroleum ether, removed by filtration and dried in vacuo. The title compound (4.3 g, 60%) was obtained as an off-white solid. M.p. 124-127° C.

reactant | Sodium hydride | 0.117 mol, 4.7 g | [H-].[Na+]
reactant | thiourea | 0.026 mol, 2.0 g | NC(=S)N | CH4N2S
reactant | di-tert-butyl dicarbonate | 0.0585 mol, 16.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,3-Di-(tert-butoxycarbonyl)thiourea | 4.3 g, 60% | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
